US05321136
In step 1, 1,3,6,8 tetramethylacridine-9-carboxylic acid was esterified with phenol in THF and 4-dimethylamino-pyridine [DMAP]. Phenyl-1,3,6,8-tetramethylacridine-9-carboxylate was obtained in about 55% yield after recrystallization from benzene.

reactant | 1,3,6,8 tetramethylacridine-9-carboxylic acid | CC1=CC(=CC2=NC3=CC(=CC(=C3C(=C12)C(=O)O)C)C)C | C18H17NO2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | THF | C1CCOC1 | C4H8O
catalyst | 4-dimethylamino-pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | Phenyl-1,3,6,8-tetramethylacridine-9-carboxylate | about 55% yield | C1(=CC=CC=C1)OC(=O)C=1C2=C(C=C(C=C2N=C2C=C(C=C(C12)C)C)C)C | C24H21NO2
